US07834030B2
To a solution of 107.7 g of 4-trifluoromethyl piperidine hydrochloride in 450 mL of water were added 2.7 L of acetonitrile, 224 g of 4-bromomethyl-2-(4-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid ethyl ester and 157 g of potassium carbonate. The resulting mixture was heated to 40° C. for 2 h, allowed to cool to room temperature then concentrated under reduced pressure. The residue was taken into 2 L of dichloromethane then washed twice with 500 mL of water. The organic layer was dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (gradient of dichloromethane/ethanol from 100/0 to 90/10) followed by washing of the collected solid with diisopropyl ether to give 212 g of 2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazole-5-carboxylic acid ethyl ester as a white solid.

reactant | 4-trifluoromethyl piperidine hydrochloride | 107.7 g | Cl.FC(C1CCNCC1)(F)F
reactant | acetonitrile | 2.7 L | C(C)#N | C2H3N
reactant | 4-bromomethyl-2-(4-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid ethyl ester | 224 g | C(C)OC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CBr | C14H11BrF3NO2S
reactant | potassium carbonate | 157 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 450 mL | O | H2O
product | 2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazole-5-carboxylic acid ethyl ester | 212 g | C(C)OC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CN1CCC(CC1)C(F)(F)F | C20H20F6N2O2S
